US05252601
N-[[1,2,3,4-Tetrahydro-2-(mercaptomethyl)-2-naphthalenyl]carbonyl]-isoserine, benzyl ester
Dissolve N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester (882 mg, 2.00 mmol) in tetrahydrofuran (20 mL) then add NH4OH (1 mL). Stir at ambient temperature under an atmosphere of argon for 24 hours, then concentrate in vacuo. Purify the residue by column chromatography (ethyl acetate:hexane) to give the title compound.

reactant | N-[[1,2,3,4-tetrahydro-2-[(acetylthio)methyl]-2-naphthalenyl]carbonyl]-isoserine, benzyl ester | 2.00 mmol, 882 mg | C(C)(=O)SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)OCC1=CC=CC=C1 | C24H27NO5S
reactant | NH4OH | 1 mL | [NH4+].[OH-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[[1,2,3,4-Tetrahydro-2-(mercaptomethyl)-2-naphthalenyl]carbonyl]-isoserine, benzyl ester | SCC1(CC2=CC=CC=C2CC1)C(=O)NCC(O)C(=O)OCC1=CC=CC=C1 | C22H25NO4S
